Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OTOLARYNGOLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / doxycycline
 
Attending: ___.
 
Chief Complaint:
Post tonsillectomy bleed
 
Major Surgical or Invasive Procedure:
Return to OR for control of post-tonsillectomy bleeding. 

 
History of Present Illness:
Patient is a ___ F s/p tonsillectomy on ___. Presented on POD8 
with right sided hemorrhage.
 
Past Medical History:
Hypothyroidism, ___
 
Social History:
___
Family History:
unknown
 
Physical Exam:
General: NAD
HEENT: No evidence of bleeding or clot. There is a small raw 
area
along the right superior tonsillar pole which is slightly
pink/red, without evidence of bleeding or clot. Normal eschar. 
Cardio: HDS
Pulm: no respiratory distress
 
Pertinent Results:
None
 
Brief Hospital Course:
Neuro: Pain was well controlled, initially with IV regimen which 

was transitioned to oral regimen once tolerating oral intake. 
Post-operative anti-emetics were given PRN. 
Cardiovascular: Remained hemodynamically stable. Pulmonary: 
Oxygen was weaned and the patient was ambulating 
independently without supplemental oxygen prior to discharge.
HEENT: No further bleeding. 
GI: Diet was advanced as tolerated, with patient able to take in 
adequate PO on day of discharge. Bowel regimen was given prn.
GU: Patient able to void without issues. 
Heme: Received  pneumatic compression 
boots for DVT prophylaxis.
Endocrine: No issues
ID: Received perioperative antibiotics 

At time of discharge, the patient was in stable condition, 
ambulating and voiding independently, and with adequate pain 
control.  The patient was given instructions to follow-up in 
clinic with: Dr. ___

as scheduled. Pt was given detailed discharge instructions 
outlining wound care, activity, diet, follow-up and the 
appropriate medication scripts.

 
Medications on Admission:
Xanax
Levothyroxine
 
Discharge Medications:
1.  Acetaminophen (Liquid) 650 mg PO Q4H:PRN Pain - Mild 
RX *acetaminophen 650 mg/20.3 mL 20.3 mL by mouth q4 hours Disp 
#*400 Milliliter Refills:*2 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Post tonsillectomy bleed

 
Discharge Condition:
Stable

 
Discharge Instructions:
Tonsillectomy

It is normal to feel tired or washed out after surgery. Rest is 
important and will help you feel better. Walking is also 
important. It will help prevent problems and help you feel 
stronger and have more energy. Just remember to pace yourself 
and rest when you feel tired.

What should I expect after surgery?
- It is normal to have a sore throat and pain in your ear after 
surgery.
- After surgery you will notice white patches on the sides of 
your throat. This is normal.
- Day Surgery will call you the next business day after your 
surgery.The nurse ___ ask how you are feeling and answer any 
questions you may have.

My Special Instructions:
- Putting an ice pack on your throat and eating ice chips may 
help you feel better.
- Use a humidifier or vaporizer for comfort.
- Drink plenty of fluids.

How do I manage my pain?

For Mild Pain:
- Take acetaminophen,which is Tylenol.
- DO NOT take Aspirin, or anti-inflammatory medicine like 
Ibuprofen, Motrin, Aleve, Advil, or Naprosyn for 2 weeks after 
surgery.These medications may cause bleeding.
- Tylenol is in many medicines. Do not take Tylenol if you are 
taking Percocet, Vicodin, or Tylenol #3.
- Do not take more than 4,000 mg of Tylenol® in 24 hours.

For Strong Pain:
- You may be given a prescription for a narcotic pain medicine. 
Take this exactly the way your doctor tells you to.
- Narcotic pain medicine may make you sleepy and lightheaded. Do 
not drink alcohol, drive, or use machinery while you are taking 
narcotic pain medicine. Please do not drive!
- Narcotic pain medicine can cause constipation. To make it 
easier to have a bowel movement:
Drink extra water and other fluids like juice, tea, and broth.
Eat foods high in fiber like fruits and vegetables.
Take a stool softener like docusate. Docusate is also called 
Colace. You can buy it over the counter at your pharmacy.

How do I take care of myself at home?

Diet
- Start by drinking water and other fluids like juice, tea, and 
broth.
- Drink plenty of fluids. Getting enough fluids is an important 
part of your recovery.
- Do not eat food until your stomach feels better.
- Eat light foods and soft solids in the beginning like ice 
cream, yogurt, and mashed potatoes.
- Avoid sharp, dry, or rough foods such as crackers, pretzels, 
potato chips, or pizza crust for 2 weeks.

Showering and Bathing
- You may shower 24-to-48 hours after surgery.

Activity
- Slowly restart your usual activities and try to do more each 
day.
- Walking is good for you, and you may also climb stairs slowly.
- Do not do any strenuous activity like aerobics, running, or 
weight lifting until your doctor says it’s ok.
- For 2 weeks avoid any activity that increases the pressure in 
your head. After 2 weeks you can slowly begin any activity.

Safety!
For 24 hours after surgery or if you are taking narcotic pain 
medicine, do not drive, drink alcohol, or make any important 
decisions.

When should I call my doctor?
Call your doctor if you have any of these danger signs:
- You have chills or a fever above 100.4° F.
- You are unable to swallow fluids or any soft foods.
- If post-operative bleeding occurs (this can occur as late as 
7- to-10 days after surgery):
Do not lie down. Sit up and lean forward to allow the blood to 
come out of your mouth.
Ice cubes may be pressed under your jaw and neck to slow or stop 
the bleeding.
- You have increased pain that is not helped by pain medicine.
- You have nausea, vomiting, or constipation that lasts more 
than 3 days.
- You cannot urinate in 6-to-8 hours.

Call your Doctor’s office  ___ – ___ between 7 a.m. and 8 
p.m. for routine questions about your care like bandages, 
activities, and showers.

In an emergency always call ___.

My Medicines
- Restart all of the medicines that you take each day.
- You will get a form telling you when to restart your 
anticoagulation medicine.
Additional Instructions from My Doctor
___ Follow-up ___
It is important to see your doctor after surgery. If you do not 
already have a follow-up appointment scheduled, please call to 
make one.
 
Followup Instructions:
___